US06977262B2
4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(piperidin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine Hydrochloride
The title compound was prepared from 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine and piperidine in the same manner as in Example 352.

reactant | 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CBr)=NNC2 | C14H10BrClN4
reactant | piperidine | N1CCCCC1 | C5H11N
product | 4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(piperidin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine Hydrochloride | Cl.ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CN1CCCCC1)=NNC2 | InChI=1S/C19H20ClN5.ClH/c20-16-7-3-2-6-13(16)18-14(10-21)17(12-25-8-4-1-5-9-25)23-19-15(18)11-22-24-19;/h2-3,6-7,11,18H,1,4-5,8-9,12H2,(H2,22,23,24);1H
